.include 22nm_HP.pm
.options GMIN=1e-020 ABSTOL=1e-18

.param Lmin=22n
.param Wmin=22n
.param Ldiff=44n

M1 D1 G1 S1 B1 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
M2 S1 G2 S2 B2 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	D1	  0     0.8
Vg1 	G1	  0	0
Vg2 	G2	  0	0
Vs 	S2	0		  0
Vb1 	B1	  S1		  0
Vb2 	B2	  S2		  0


.control
echo "" > nmos_00.txt
dc TEMP 25 50 60
let i1 = @M1[W]
let i2 = @M2[W]
print @M1[W] @M2[W] V(D1) V(S1) V(G1) V(G2) V(S2) V(B1) V(B2) I(Vd) I(Vg1) I(Vg2) I(Vs) I(Vb1) I(Vb2)
echo "25" "$&i1" "$&V(D1)" "$&V(S1)" "$&V(G1)" "$&V(B1)" "$&i2" "$&V(S1)" "$&V(S2)" "$&V(G2)" "$&V(B2)" >> nmos_00.txt

.endc
.end